US04707473
A two-fold stoichiometric excess of 1N hydrochloric acid is added to a solution of phenoxazine-4,6-dicarboxylic acid sodium salt in water. The solution is then extracted with ether, and the extract is dried and the solvent removed under reduced pressure to afford phenoxazine-4,6-dicarboxylic acid.

reactant | hydrochloric acid | 1N | Cl | ClH
reactant | phenoxazine-4,6-dicarboxylic acid sodium salt | [Na+].C1=CC=C(C=2OC=3C(=CC=CC3NC12)C(=O)[O-])C(=O)[O-].[Na+]
solvent | water | O | H2O
product | phenoxazine-4,6-dicarboxylic acid | C1=CC=C(C=2OC=3C(=CC=CC3NC12)C(=O)O)C(=O)O | C14H9NO5
